US05986131
As in Examples 4 and 5, 1-bromocycloheptene-2-carboxaldehyde was converted to (2E,4E)-3-Methyl-5-(2-((E)-2(2,6,6-trimethyl-1-cyclohexen-1-yl)ethenyl)-1-cyclohepten-1-yl)-2,4-pentadienoic acid ethyl ester which gave (2E,4E)-3-Methyl-5-(2-((E)-2(2,6,6-trimethyl-1-cyclohexen-1-yl)ethenyl)-1-cyclohepten-1-yl)-2,4-pentadienoic acid after hydrolysis with base.

reactant | 1-bromocycloheptene-2-carboxaldehyde | BrC1=C(CCCCC1)C=O | C8H11BrO
reactant | (2E,4E)-3-Methyl-5-(2-((E)-2(2,6,6-trimethyl-1-cyclohexen-1-yl)ethenyl)-1-cyclohepten-1-yl)-2,4-pentadienoic acid ethyl ester | C(C)OC(\C=C(\C=C\C1=C(CCCCC1)\C=C\C1=C(CCCC1(C)C)C)/C)=O | C26H38O2
product | (2E,4E)-3-Methyl-5-(2-((E)-2(2,6,6-trimethyl-1-cyclohexen-1-yl)ethenyl)-1-cyclohepten-1-yl)-2,4-pentadienoic acid | C\C(=C/C(=O)O)\C=C\C1=C(CCCCC1)\C=C\C1=C(CCCC1(C)C)C | C24H34O2
